US06617339B1
3-(4-(4-(3-(4-Imidazolyl)acryloyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yioxymethyl)oxazolidin-2-one
3-(4-Imidazolyl)acrylic acid (690 mg, 5 mmol) was suspended in anhydrous dichloromethane (5 ml) under nitrogen, and thionyl chloride (10 ml) and one drop of DMF added. The mixture was stirred at ambient temperature for 18 hours, excess thionyl chloride was evaporated, and the residue azeotroped with dichloromethane (2×50 ml). The acid chloride was suspended in dichloromethane (30 ml), cooled to 4°, and a solution of 3-(4-(piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one dihydrochloride (866 mg, 2 mmol) and triethylamine (2.02 g, 20 mmol) in anhydrous dichloromethane (25 ml) added dropwise. The mixture was stirred for 18 hours at ambient temperature, and insoluble material filtered. The organic layer was treated with water (50 ml), further insoluble material removed, then washed with brine and dried over magnesium sulfate. After evaporation to dryness, the residue was dissolved in ethanol (5 ml) and treated with an excess of ethanol saturated with hydrogen chloride, to precipitate the desired product as a hydrochloride salt (122 mg).

reactant | 3-(4-Imidazolyl)acrylic acid | 5 mmol, 690 mg | N1C=NC(=C1)C=CC(=O)O | C6H6N2O2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(4-(piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one dihydrochloride | 2 mmol, 866 mg | Cl.Cl.N1(CCNCC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F
reactant | triethylamine | 20 mmol, 2.02 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3-(4-(4-(3-(4-Imidazolyl)acryloyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yioxymethyl)oxazolidin-2-one | N1C=NC(=C1)C=CC(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C23H23FN6O5
